US07615562B2
Step C: Morpholin-4-yl-{3-[2-(2,2,6,6-tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-1H-indol-6-yl}-methanone
A suspension of 3-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indole-6-carboxylic acid (542 mg, 1.0 mmol) in dichloroethane was treated with 3 equivalents of thionyl chloride. A drop of DMF was added and the clear solution was stirred at room temperature for 10 min. This solution was added to a solution of morpholine (1.30 g, 14.9 mmol) in dichloroethane containing DMAP (5.00 mg). After 2 h the reaction mixture was given into a saturated bicarbonate solution, extracted with DCM and dried over sodium sulfate. After removal of the solvent the yellow residue was dissolved in THF and treated with 10 equivalents of TBAF under reflux for 8 h. The reaction mixture was given into EtOAc, washed with 2.5M NaOH, dried over sodium sulfate and concentrated. Purification via chromatography on silicagel (EtOAc/MeOH/ammonia:95/4/1 to 80/19/1) gave the title compound as a white solid. Yield: 250 mg (54%).

reactant | 3-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indole-6-carboxylic acid | 1.0 mmol, 542 mg | CC1(NC(CC(C1)NC1=NC=CC(=N1)C1=CN(C2=CC(=CC=C12)C(=O)O)COCC[Si](C)(C)C)(C)C)C | C28H41N5O3Si
reactant | thionyl chloride | 3 equivalents | S(=O)(Cl)Cl | Cl2OS
reactant | morpholine | 14.9 mmol, 1.30 g | N1CCOCC1 | C4H9NO
reactant | bicarbonate | C([O-])(O)=O
reactant | TBAF | 10 equivalents | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
catalyst | DMAP | 5.00 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | Morpholin-4-yl-{3-[2-(2,2,6,6-tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-1H-indol-6-yl}-methanone | N1(CCOCC1)C(=O)C1=CC=C2C(=CNC2=C1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C26H34N6O2
